US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.29, 6.03, 5.18, 4.49, 2.81, 2.65, 2.55, 2.03, 1.89, 1.23; (FAB) calcd for C16H20BrN3O+H 351.0, found 351.0.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=C1C=CO2 | C16H21N3O
product | 5-bromo-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=C1C=CO2)CC | C16H20BrN3O
